US06620811B2
To a stirred solution of 0.058 ml (0.74 mmol) 2-methoxyethanol in 2 ml dioxane at room temperature was added 49 mg (1.24 mmol) sodium hydride (60% dispersion in mineral oil) and stirring continued for 10 minutes. 200 mg (0.49 mmol) 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide was then added and the mixture heated at 115° C. for 16 h. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate, and washed sequentially with 1 M hydrochloric acid and saturated brine. The organic phase was then dried over sodium sulfate and concentrated in vacuo. Flash chromatography (2/1 ethyl acetate/toluene) afforded 109 mg (50%) 2-(2-methoxy-ethoxy)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide as a yellow crystalline solid. ES-MS m/e (%): 467 (M+Na+, 16), 445 (M+H+, 100).

reactant | 2-methoxyethanol | 0.74 mmol, 0.058 ml | COCCO | C3H8O2
reactant | sodium hydride | 1.24 mmol, 49 mg | [H-].[Na+]
reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 0.49 mmol, 200 mg | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-methoxy-ethoxy)-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 109 mg, 50% | COCCOC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C21H24N4O5S
